US07799798B2
B. Synthesis of 1-pentyl-1H-pyrrolo[2,3-b]pyridine-2,3-dione
A 2-neck round bottom flask (1 L) was charged with 1-pentyl-1H-pyrrolo[2,3-b]pyridine (17.4 g, 92.6 mmol) in anhydrous dimethylsulfoxide (300 mL) and bubbled with nitrogen. To the reaction solution was added N-bromosuccinimide (34.3 g, 193 mmol) in portion over 15 min at 0° C. The reaction mixture was heated at 60° C. for 6 h followed by at ambient temperature for 16 h. The reaction mixture was diluted with water (200 mL) and stirred for 0.5 h followed by extraction with ethyl acetate (3×200 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness to give the title compound as a yellow solid, which was crystallized from ether as an orange solid (14.6 g, 72%): 1H NMR (300 MHz, CDCl3) δ 8.41 (dd, 1H), 7.78 (dd, 1H), 7.03 (dd, 1H), 3.79 (t, 2H), 1.77-1.66 (m, 2H), 1.34-1.29 (m, 4H), 0.85 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 219.1, 182.2, 164.0, 158.2, 155.8, 132.8, 119.4, 112.0, 39.3, 28.9, 27.2, 22.3, 13.9.

reactant | 1-pentyl-1H-pyrrolo[2,3-b]pyridine | 92.6 mmol, 17.4 g | C(CCCC)N1C=CC=2C1=NC=CC2 | C12H16N2
reactant | N-bromosuccinimide | 193 mmol, 34.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 200 mL | O | H2O
solvent | dimethylsulfoxide | 300 mL | CS(=O)C | C2H6OS
product | 1-pentyl-1H-pyrrolo[2,3-b]pyridine-2,3-dione | C(CCCC)N1C(C(C=2C1=NC=CC2)=O)=O | C12H14N2O2
